US04672131
10-Bromo Thromboxane B2Methyl Ester (D)
10-Chloro Thromboxane B2Methyl Ester has been prepared using the same procedure except that N-chlorosuccinimide was substituted for N-bromosuccinimide. This 10-chloro compound can then be utilized in the same manner as the 10-bromo compound in the following examples.

reactant | 10-Chloro Thromboxane | ClC1C[C@H](CCCCCCC)[C@H](OC1)CCCCCCCC | C20H39ClO
reactant | N-chlorosuccinimide | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | N-bromosuccinimide | BrN1C(CCC1=O)=O | C4H4BrNO2
product | 10-Bromo Thromboxane | BrC1C[C@H](CCCCCCC)[C@H](OC1)CCCCCCCC | C20H39BrO
